US07642220B2
17. Preparation of 6-Chloro-2-(4-chloro-2-fluoro-3-methoxyphenyl)-5-methoxypyrimidin-4-ylamine
4,6-Dichloro-2-(4-chloro-2-fluoro-3-methoxyphenyl)-5-methoxy-pyrimidine (500 mg, 1.5 mmol) was suspended in ammonia saturated ethanol (10 mL) and heated in a CEM microwave at 125° C. for 30 min. The mixture was poured into 15 mL water and extracted with ethyl acetate thrice. The combined organic phases were washed once with brine, dried and evaporated to give the title compound (420 mg, 88% yield: 1H NMR (DMSO-d6) δ 7.59 (dd, 1H), 7.45 (br s, 2H), 7.39 (dd, 1H), 3.91 (s, 3H), 3.76 (s, 3H).

reactant | 4,6-Dichloro-2-(4-chloro-2-fluoro-3-methoxyphenyl)-5-methoxy-pyrimidine | 1.5 mmol, 500 mg | ClC1=NC(=NC(=C1OC)Cl)C1=C(C(=C(C=C1)Cl)OC)F | C12H8Cl3FN2O2
reactant | water | 15 mL | O | H2O
reactant | ammonia | 10 mL | N | H3N
product | 6-Chloro-2-(4-chloro-2-fluoro-3-methoxyphenyl)-5-methoxypyrimidin-4-ylamine | 88% yield | ClC1=C(C(=NC(=N1)C1=C(C(=C(C=C1)Cl)OC)F)N)OC | C12H10Cl2FN3O2
